US08048878B2
Synthesis of 1-[(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one
Diethyl cyanophosphonate (2.1 mL) was added to a solution of (2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidine (934 mg), vinylacetic acid (1.15 mL), and triethylamine (3.82 mL) in DMF (10 mL), and the reaction solution was stirred at room temperature for six hours. Ethyl acetate and 1 N aqueous hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with saturated sodium bicarbonate water, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane->heptane:ethyl acetate=1:1) to obtain 744 mg of the title compound. The property values of the compound are as follows.

reactant | Diethyl cyanophosphonate | 2.1 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | (2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidine | 934 mg | FC1=CC=C(C=C1)[C@@H]1N[C@@H](CCC1)C=C | C13H16FN
reactant | vinylacetic acid | 1.15 mL | C(=C)CC(=O)O | C4H6O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 3.82 mL | C(C)N(CC)CC | C6H15N
product | 1-[(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one | 744 mg | FC1=CC=C(C=C1)[C@@H]1N([C@@H](CCC1)C=C)C(CC=C)=O | C17H20FNO
